US04880808
A mixture of 8.7 parts of (1,1-dimethylethyl) [[4-[[2-[2-(aminocarbonyl)-4-[5,5bis(4-fluorophenyl)pentyl]-1-piperazinyl]acetyl]amino]-3,5-dichlorophenyl]methyl]carbamate, 120 parts of methanol and 24 parts of 2-propanol, saturated with hydrogen chloride was stirred for 30 minutes at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The whole was treated with an ammonium hydroxide solution and the product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (93:7 by volume) as eluent. The desired fraction was collected and the eluent was evaporated. The residue was suspended in 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.34 parts (44.9%) of 2-(aminocarbonyl)-N-[4-(aminomethyl)-2,6-dichlorophenyl]-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide; mp. 160.8° C. (compound 100).

reactant | (1,1-dimethylethyl) [[4-[[2-[2-(aminocarbonyl)-4-[5,5bis(4-fluorophenyl)pentyl]-1-piperazinyl]acetyl]amino]-3,5-dichlorophenyl]methyl]carbamate | NC(=O)C1N(CCN(C1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1Cl)CNC(OC(C)(C)C)=O)Cl | C36H43Cl2F2N5O4
reactant | methanol | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-(aminocarbonyl)-N-[4-(aminomethyl)-2,6-dichlorophenyl]-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide | 44.9% | NC(=O)C1N(CCN(C1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1Cl)CN)Cl | C31H35Cl2F2N5O2
